US07511050B2
Step A: 9-butyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
The mixture of (2E)-3-butyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone (200 mg, 0.0009 mol) in Ethyl orthoformate (5 mL, 0.03 mol) was heated at 100° C. overnight. After cooling to room temperature, the reaction mixture was filtrated and dried to give the desired product (150 mg, 71.8%). LCMS calculated for C10H13N6O (M+H): 233.1; found: 233.1.

reactant | (2E)-3-butyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone | 0.0009 mol, 200 mg | C(CCC)N1/C(/NC(C=2NC=NC12)=O)=N/N | C9H14N6O
reactant | Ethyl orthoformate | 0.03 mol, 5 mL | C(OCC)([O-])[O-]
product | 9-butyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 150 mg, 71.8% | C(CCC)N1C=2N(C(C=3NC=NC13)=O)C=NN2 | C10H12N6O
